### PR TITLE
Switch from intuition and tauto to itauto on Coq 8.15

### PR DESCRIPTION
**Pull request by palmskog**

### CODE REVIEW

File: theories/VLSM/Core/Composition.v [hunk 1]
```diff
@@ -439,7 +440,7 @@ Thus, the [free_composite_vlsm] is the [composite_vlsm] using the
       (P : message -> Prop)
       : VLSM_incl (pre_loaded_vlsm (composite_vlsm constraint) P) (pre_loaded_with_all_messages_vlsm free_composite_vlsm).
     Proof.
-      apply basic_VLSM_strong_incl; cbv; intuition.
+      by apply basic_VLSM_strong_incl; cbv; try itauto.
```
Comment (wkolowski) [inline theories/VLSM/Core/Composition.v:443]: Whence this `try` here?

File: theories/VLSM/Core/Composition.v [hunk 2]
```diff
@@ -1105,7 +1106,7 @@ Section composite_plan_properties.
     simpl in i.
     unfold i in Heq.
     rewrite <- Heq.
-    assumption.
+    itauto.
```
Comment (wkolowski) [inline theories/VLSM/Core/Composition.v:1109]: Why `itauto` here? Wouldn't we want to use `by rewrite <- Heq`?

File: theories/VLSM/Core/Equivocators/Composition/LimitedEquivocation/FixedEquivocationSimulation.v [hunk 3]
```diff
@@ -360,7 +361,7 @@ Proof.
       IM _ _ (equivocators_fixed_equivocations_constraint IM equivocating))
     in HtrX
     as (is & His & s & Hs & tr & Htr & Hptr & Houtput).
-  - exists is, s, tr; intuition.
+  - exists is, s, tr; split_and!; try itauto.
```
Comment (wkolowski) [inline theories/VLSM/Core/Equivocators/Composition/LimitedEquivocation/FixedEquivocationSimulation.v:364]: Again, why `try`?

File: theories/VLSM/Lib/ListExtras.v [hunk 4]
```diff
@@ -473,7 +474,7 @@ Proof.
   intros l1 l2 x; split; intro H_in;
   apply in_or_app; apply in_app_or in H_in;
     destruct H_in as [cat | dog];
```
Comment (wkolowski) [inline theories/VLSM/Lib/ListExtras.v:476]: That's funny: `[cat | dog]`.

File: theories/VLSM/Lib/ListExtras.v [hunk 5]
```diff
@@ -1324,7 +1325,7 @@ Proof.
   induction l as [| h t]; cbn.
   - setoid_rewrite elem_of_nil. firstorder.
   - destruct (f h) eqn: Heq; setoid_rewrite elem_of_cons
-    ; firstorder; subst; intuition congruence + eauto.
+    ; firstorder; subst; itauto congruence + eauto.
```
Comment (wkolowski) [inline theories/VLSM/Lib/ListExtras.v:1328]: Isn't this the right place to use `smt` instead of this combo of `firstorder`/`itauto`/`congruence`/`eauto`?

File: theories/VLSM/Lib/ListExtras.v [hunk 6]
```diff
@@ -1905,12 +1905,12 @@ Proof.
      generalize dependent pref.
      induction l; intros.
      + destruct pref; destruct suff;
-       try intuition;
+       try itauto;
        try discriminate H.
```
Comment (wkolowski) [inline theories/VLSM/Lib/ListExtras.v:1909]: Maybe something like `itauto discriminate`? (Note: I didn't try my suggestions in Coq, so I'm not sure if they make sense).

File: theories/VLSM/Core/Composition.v (hunk 1 above)
Comment (palmskog) [reply theories/VLSM/Core/Composition.v:443]: The naked `itauto` doesn't solve all the goals that intution solved (I have reported some failures to the itauto developer). However, the `done` tactic solves the remaining goals. The `try` makes it so that `itauto` doesn't fail when it doesn't solve everything. Then the remaining goals are given to `done`.

File: theories/VLSM/Core/Composition.v (hunk 2 above)
Comment (palmskog) [reply theories/VLSM/Core/Composition.v:1109]: `by rewrite <- Heq` doesn't work, since we don't do the `intuition` preprocessing a few lines above anymore.

File: theories/VLSM/Core/Equivocators/Composition/LimitedEquivocation/FixedEquivocationSimulation.v (hunk 3 above)
Comment (palmskog) [reply theories/VLSM/Core/Equivocators/Composition/LimitedEquivocation/FixedEquivocationSimulation.v:364]: As before, `intuition` leaves some goals it doesn't discharge. With `itauto`, this becomes explicit with `try`. You can see that the remaining goal continues on the line below.

File: theories/VLSM/Core/Equivocators/Composition/Common.v [hunk 7]
```diff
@@ -234,7 +235,7 @@ Lemma equivocators_no_equivocations_vlsm_incl_equivocators_free
   : VLSM_incl equivocators_no_equivocations_vlsm equivocators_free_vlsm.
 Proof.
   apply basic_VLSM_incl.
-  - cbv; intuition.
+  - cbv. intros; specialize (H2 n); split_and!; itauto.
```
Comment (traiansf) [inline theories/VLSM/Core/Equivocators/Composition/Common.v:238]: maybe name the hypothesis in the `intros`?

File: theories/VLSM/Core/Equivocators/Composition/LimitedEquivocation/LimitedEquivocation.v [hunk 8]
```diff
@@ -279,9 +280,9 @@ Lemma equivocators_limited_valid_trace_projects_to_annotated_limited_equivocatio
 Proof.
   eapply equivocators_limited_valid_trace_projects_to_fixed_limited_equivocation
       in Htr as (trX & initial_descriptors & Hinitial_descriptors & Hpr & Hlst_pr & Hpr_limited)
-  ; [| eassumption].
+  ; [| eassumption].
```
Comment (traiansf) [inline theories/VLSM/Core/Equivocators/Composition/LimitedEquivocation/LimitedEquivocation.v:283]: extra space?

File: theories/VLSM/Core/Equivocators/Composition/LimitedEquivocation/FixedEquivocationSimulation.v (hunk 3 above)
Comment (traiansf) [reply theories/VLSM/Core/Equivocators/Composition/LimitedEquivocation/FixedEquivocationSimulation.v:364]: But didn't we decided to try to avoid using `try`?

File: theories/VLSM/Core/Equivocators/Composition/Projections.v [hunk 9]
```diff
@@ -1961,7 +1962,7 @@ Lemma SeededXE_incl_PreFreeE
   : VLSM_incl SeededXE SubPreFreeE.
 Proof.
   apply basic_VLSM_strong_incl.
-  1,2,4:cbv; intuition.
+  1,2,4:cbv; intros; try (specialize (H1 n)); itauto.
```
Comment (traiansf) [inline theories/VLSM/Core/Equivocators/Composition/Projections.v:1965]: Same as above; give name to hypotheses

File: theories/VLSM/Core/Composition.v (hunk 1 above)
Comment (traiansf) [reply theories/VLSM/Core/Composition.v:443]: But couldn't we just enumerate the cases where itauto is supposed to apply, instead of using `try`?

You can see that I really bought in your suggestion about trying to avoid `try`

**Review by traiansf — APPROVED** [review]

File: meta.yml [hunk 10]
```diff
@@ -71,15 +76,15 @@ build: |-
 
   ## Building instructions
 
-  For local development, the project is compatible with the Jan 2022 package pick for Coq 8.13 of
+  For local development, the project is compatible with the Jan 2022 package pick for Coq 8.15 of
```
[the remark this answers is not in the document]
Comment (palmskog) [reply meta.yml:79]: The Coq Platform Jan 2022 package pick for 8.15 includes Coq itself and stdpp. However, it doesn't include `coq-itauto`, even though Itauto might be added to the Platform in the future. Rather than nitpicking this, I think I'll completely remove any mention.

File: theories/VLSM/Core/Equivocators/Composition/LimitedEquivocation/FixedEquivocationSimulation.v (hunk 3 above)
Comment (palmskog) [reply theories/VLSM/Core/Equivocators/Composition/LimitedEquivocation/FixedEquivocationSimulation.v:364]: My goal here is to have code that makes minimal changes and preserves as much as possible the existing proof script. `try` here is the best way to do this, since `intuition` essentially has a built-in `try`. We can purge more `try` at some later point.

File: theories/VLSM/Core/Composition.v [hunk 11]
```diff
@@ -440,7 +440,7 @@ Thus, the [free_composite_vlsm] is the [composite_vlsm] using the
       (P : message -> Prop)
       : VLSM_incl (pre_loaded_vlsm (composite_vlsm constraint) P) (pre_loaded_with_all_messages_vlsm free_composite_vlsm).
     Proof.
-      by apply basic_VLSM_strong_incl; cbv; try itauto.
+      by apply basic_VLSM_strong_incl; cbv; [..|itauto|].
```
Comment (wkolowski) [inline theories/VLSM/Core/Composition.v:443]: Why not just `; itauto`?

Comment (palmskog) [reply theories/VLSM/Core/Composition.v:443]: The `done` tactic does more than what `itauto auto` does for certain goals. The aim here is to leave as many goals as possible to `done` and only use `itauto` where it's indispensable.
